US05541180
To a stirred solution of 6 g of diphenyl cyanocarbonimidate in 50 ml of dichloromethane at room temperature were added portionwise 2.1 g of piperidine. Stirring was continued for 30 minutes at room temperature. The reaction mixture was evaporated and the residue was crystallized from 2,2'-oxybispropane. The crystals were filtered off and dried, yielding 4.6 g (80.7%) of [phenoxy(1-piperidinyl)methylene]cyanamide; mp. 85.7° C. (interm. 32).

reactant | diphenyl cyanocarbonimidate | 6 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | piperidine | 2.1 g | N1CCCCC1 | C5H11N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [phenoxy(1-piperidinyl)methylene]cyanamide | 4.6 g, 80.7% | O(C1=CC=CC=C1)C(N1CCCCC1)=NC#N | C13H15N3O
